US05192766
1-[3,3-Bis(3-chlorophenyl)acryloyl]piperazine
5.51 ml of diphenylphosphoryl azide and 1.93 ml of N-formylpiperazine were added, in that order, to 100 ml of a methylene chloride solution containing 5.00 g of 3,3-bis(3-chlorophenyl)acrylic acid (prepared as described in preparation 110) and 4.75 ml of triethylamine. The reaction mixture was then stirred at room temperature for 18 hours, after which it was washed with a saturated aqueous solution of sodium bicarbonate and then with water. It was then dried over anhydrous sodium sulfate and the solvent was removed by distillation under reduced pressure. The residue was dissolved in a mixture of 100 ml of ethanol and 50 ml of tetrahydrofuran, and 50 ml of a 10% w/v aqueous solution of sodium hydroxide were added. The resulting mixture was stirred for 8 hours at room temperature, after which it was poured into water. The solution was extracted twice, each time with methylene chloride, and the combined extracts were washed with water and dried over anhydrous sodium sulfate; the solvent was then removed by distillation under reduced pressure. The resulting residue was purified by column chromatography through 150 g of silica gel, using mixtures of methylene chloride and methanol ranging from 49:1 to 9:1 by volume as eluent, to give 5.23 g of the title compound as a viscous oil.

reactant | diphenylphosphoryl azide | 5.51 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | N-formylpiperazine | 1.93 ml | C(=O)N1CCNCC1 | C5H10N2O
reactant | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
reactant | 3,3-bis(3-chlorophenyl)acrylic acid | 5.00 g | ClC=1C=C(C=CC1)C(=CC(=O)O)C1=CC(=CC=C1)Cl | C15H10Cl2O2
solvent | triethylamine | 4.75 ml | C(C)N(CC)CC | C6H15N
product | 1-[3,3-Bis(3-chlorophenyl)acryloyl]piperazine | 5.23 g | ClC=1C=C(C=CC1)C(=CC(=O)N1CCNCC1)C1=CC(=CC=C1)Cl | C19H18Cl2N2O
